US09120785B2
Into a flask were added 2,6 dibromo-4-methyl pyridine (10.0 g, 40.0 mmol), sodium tert-butoxide (4.4 g, 46.0 mmol), 2-amino-4-methyl-5-fluoro pyridine (5.8 g, 45.8 mmol) and 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride (1.3 g, 1.9 mmol) followed by nitrogen sparged 1,4-dioxane (100 mL). The slurry was evacuated and refilled with nitrogen three times and then heated to 88° C. for 5 hours. After cooling to 25° C., ethyl acetate (100 mL) and water (20 mL) were added and the layers were separated. The organic layer was washed with 10% aqueous sodium chloride solution (25 mL) and then concentrated under reduced pressure. The residue was purified by chromatography on silica gel (10-50% ethyl acetate/hexanes) to afford N-(6-bromo-4-methylpyridine-2-yl)-5-fluoro-4-methylpyridine-2-amine. 1H NMR (600 MHz, DMSO-d6) δ 9.87 (s, 1H), 8.07 (d, J=0.8 Hz, 1H), 7.61 (s, 1H), 7.32 (d, J=5.6 Hz, 1H), 6.87 (s, 1H), 2.20 (s, 3H), 2.19 (s, 3H).

reactant | 2,6 dibromo-4-methyl pyridine | 40.0 mmol, 10.0 g | BrC1=NC(=CC(=C1)C)Br | C6H5Br2N
reactant | sodium tert-butoxide | 46.0 mmol, 4.4 g | CC(C)([O-])C.[Na+]
reactant | 2-amino-4-methyl-5-fluoro pyridine | 45.8 mmol, 5.8 g | NC1=NC=C(C(=C1)C)F | C6H7FN2
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride | 1.9 mmol, 1.3 g | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | N-(6-bromo-4-methylpyridine-2-yl)-5-fluoro-4-methylpyridine-2-amine | BrC1=CC(=CC(=N1)NC1=NC=C(C(=C1)C)F)C | C12H11BrFN3
